US05514691
5-Amino-4-bromo-3-tert-butylisoxazole (440 mg, 2.0 mmol) was dissolved in dry pyridine (2 ml). Benzenesulfonyl chloride (344 mg, 2.0 mmol) and 4-dimethylamino-pyridine (5 mg) was added and the reaction was stirred at 500° C. for 16 h. The reaction mixture was diluted with ethyl acetate (20 ml), washed with 1N HCl (2×10 ml) and the organic phase was dried over magnesium sulfate. The solvent was removed under reduced pressure to yield a crude product, which was recrystallized from ethyl acetate/hexanes to give 300 mg (60% yield) of N-benzenesulfonyl-N-(4-bromo- 3-tert-butyl-5-isoxazolyl) benzenesulfonamide.

reactant | 5-Amino-4-bromo-3-tert-butylisoxazole | 2.0 mmol, 440 mg | NC1=C(C(=NO1)C(C)(C)C)Br | C7H11BrN2O
reactant | Benzenesulfonyl chloride | 2.0 mmol, 344 mg | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylamino-pyridine | 5 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | N-benzenesulfonyl-N-(4-bromo- 3-tert-butyl-5-isoxazolyl) benzenesulfonamide | 300 mg, 60% yield | C1(=CC=CC=C1)S(=O)(=O)N(S(=O)(=O)C1=CC=CC=C1)C1=C(C(=NO1)C(C)(C)C)Br | C19H19BrN2O5S2
